US03959322
Dissolve 13β-ethyl-gon-4-en-17β-ol (0.29 g.) in acetone (40 cc.) and 8N-chromic acid dropwise with stirring until the solution become permanently orange and then add isopropanol (3 cc.) and evaporate the solution to small bulk (ca. 5 cc.). Add water and extract the mixture with ether. Wash, dry and evaporate the ethereal solution to obtain 13β-ethyl-gon-4-en-17-one (0.24 g.), m.p. 101°-102° C. Purify by recrystallization from methanol to obtain the pure product, m.p. 102.5°-103.5° C.

reactant | 13β-ethyl-gon-4-en-17β-ol | 0.29 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCCC=C1CC2)O | C19H30O
solvent | acetone | 40 cc | CC(=O)C | C3H6O
solvent | chromic acid | [Cr](=O)(=O)(O)O
product | 13β-ethyl-gon-4-en-17-one | 0.24 g | C(C)[C@]12C(CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCCC=C1CC2)=O | C19H28O
